US09403816B2
N-Methoxy-N-methyl-2-(trifluoromethyl)isonicotinamide
To a suspension of 2-(trifluoromethyl)isonicotinic acid (1.03 g, 5.39 mmol), N,O-dimethylhydroxylamine hydrochloride (0.800 g, 8.20 mmol) and N′(ethylcarbonimidoyl)-N,N-dimethyl-1,3-propanediamine hydrochloride (EDCI, 1.35 g, 7.04 mmol) in CH2Cl2 (30 mL) was added Et3N (1.90 mL, 13.7 mmol), and the mixture immediately turned clear. After stirring at room temperature overnight, NH4Cl (aqueous) was added. The mixture was stirred vigorously for a while, and white solid was then filtered off. The organic layer was separated, and the aqueous layer was extracted with CH2Cl2. The combined organic phases were washed with brine, and the aqueous layer was back extracted with CH2Cl2. The organic phases were combined, dried (Na2SO4), filtered, concentrated, and purified by flash column chromatography (40 g silica gel column, 40-70% EtOAc in heptanes) to afford the title compound as a clear oil.

reactant | 2-(trifluoromethyl)isonicotinic acid | 5.39 mmol, 1.03 g | FC(C=1C=C(C(=O)O)C=CN1)(F)F | C7H4F3NO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 8.20 mmol, 0.800 g | Cl.CNOC
reactant | N′(ethylcarbonimidoyl)-N,N-dimethyl-1,3-propanediamine hydrochloride | 7.04 mmol, 1.35 g | Cl.C(C)C(=N)NCCCN(C)C
reactant | Et3N | 13.7 mmol, 1.90 mL | CCN(CC)CC | C6H15N
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | N-Methoxy-N-methyl-2-(trifluoromethyl)isonicotinamide | CON(C(C1=CC(=NC=C1)C(F)(F)F)=O)C | C9H9F3N2O2
